US07713994B2
1-Butyl-4-chloromethyl-2-methoxy-benzene
Following the same procedure for the preparation of 4-Chloromethyl-2-methoxy-biphenyl, the title compound is prepared from (4-Butyl-3-methoxy-phenyl)-methanol (crude material from the previous step). The crude material is used directly in the next step.

reactant | 4-Chloromethyl-2-methoxy-biphenyl | ClCC1=CC(=C(C=C1)C1=CC=CC=C1)OC | C14H13ClO
reactant | (4-Butyl-3-methoxy-phenyl)-methanol | C(CCC)C1=C(C=C(C=C1)CO)OC | C12H18O2
product | 1-Butyl-4-chloromethyl-2-methoxy-benzene | C(CCC)C1=C(C=C(C=C1)CCl)OC | C12H17ClO
